US09260408B2
[C] 3-Bromo-5-((S)-2-[1,2,4]triazol-1-ylmethyl-pyrrolidin-1-yl)-pyridine
To a solution of NaH (0.011 g, 0.272 mmol) in DMF (1 mL) was added 1H-1,2,4-triazole (0.016 g, 0.236 mmol) and the reaction mixture was stirred at room temperature for 30 min. Then, 3-bromo-5-((S)-2-chloromethyl-pyrrolidin-1-yl)-pyridine (0.05 g, 0.181 mmol) in DMF (0.5 mL) was added to the reaction mixture which was heated to 80° C. over night. The mixture was diluted with DCM, poured into aq. NaHCO3 (5 mL) and the aqueous layer was extracted with DCM (2×10 mL). Combined organics were dried over Na2SO4, filtered and evaporated to dryness to give the title compound (0.04 g, 72%) as a yellow oil. MS: 308.0, 310.0 (M+H+).

reactant | NaH | 0.272 mmol, 0.011 g | [H-].[Na+]
reactant | 1H-1,2,4-triazole | 0.236 mmol, 0.016 g | N1N=CN=C1 | C2H3N3
reactant | 3-bromo-5-((S)-2-chloromethyl-pyrrolidin-1-yl)-pyridine | 0.181 mmol, 0.05 g | BrC=1C=NC=C(C1)N1[C@@H](CCC1)CCl | C10H12BrClN2
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5-((S)-2-[1,2,4]triazol-1-ylmethyl-pyrrolidin-1-yl)-pyridine | 0.04 g, 72% | BrC=1C=NC=C(C1)N1[C@@H](CCC1)CN1N=CN=C1 | C12H14BrN5
